US06492465B1
Lithium 4-(2-methylphenyl)-2-isopropylindenide
4-(2-methylphenyl)-2-isopropylindene (6.6 g, 26.5 mmol) was dissolved in 80 mL of pentane. To this solution was added 10.6 mL of n-BuLi (2.5M in hexane) and the reaction was allowed to stir 4 hours at room temperature. A white solid precipitates from solution and was collected by frit filtration and washed with additional pentane. Yield was 5.8 g (88%).

reactant | 4-(2-methylphenyl)-2-isopropylindene | 26.5 mmol, 6.6 g | CC1=C(C=CC=C1)C1=C2C=C(CC2=CC=C1)C(C)C | C19H20
reactant | n-BuLi | 2.5M, 10.6 mL | [Li]CCCC
solvent | pentane | 80 mL | CCCCC | C5H12
product | Lithium 4-(2-methylphenyl)-2-isopropylindenide | CC1=C(C=CC=C1)C1=C2C=C([CH-]C2=CC=C1)C(C)C.[Li+] | InChI=1S/C19H19.Li/c1-13(2)16-11-15-8-6-10-18(19(15)12-16)17-9-5-4-7-14(17)3;/h4-13H,1-3H3;/q-1;+1
